US06045590
Preparation of 4-(2'-hydroxyethoxy)-2-methyl-1-hydroxynaphthalene
4.9g of concentrated sulfuric acid were added dropwise, with stirring, to a mixture of 4.75 g (27.6 mmole) 2-methyl-1,4 naphthoquinone, 2.71 g (41.4 mmole) of zinc powder, 15 mL of ethylene glycol and 15 mL of toluene in an ice bath. After the addition was complete, the reaction mixture was stirred for 5 hours at 100° C. The reaction product was extracted with ethyl acetate, washed with water, brine, dried over sodium sulfate, filtered, then evaporated under reduced pressure to give 4.21 g (70% yield) of the above product. That product had a melting point of 136.3-136.8° C. and an 1HNMR as follows: (300 MHz, DMSO-d6) δ 2.37 (s, 3H), 3.86 (m, 2H), 4.10 (t, 2H, J=4.8 Hz), 4.98 (t, 1H, J=5.4 Hz), 6.76 (s, 1H), 7.42 (m, 2H), 8.14 (d, 1H, J=9.0 Hz), 8.17 (d, 1H, J=9.0 Hz), 8.51 (s, 1H). The mass spectrum showed a molecular ion at m/z 218.

reactant | sulfuric acid | 4.9g | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-1,4 naphthoquinone | 27.6 mmole, 4.75 g | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | ethylene glycol | 15 mL | C(CO)O | C2H6O2
catalyst | zinc | 41.4 mmole, 2.71 g | [Zn] | Zn
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2'-hydroxyethoxy)-2-methyl-1-hydroxynaphthalene | 4.21 g, 70% yield | OCCOC1=CC(=C(C2=CC=CC=C12)O)C | C13H14O3
